US07820802B2
After triphenylphosphine (566 mg, 2.16 mmol), (2R,4R)-2,4-pentanediol (225 mg, 2.16 mmol), and THF (6 ml) were added to a 50 mL flask, a 40% azodicarboxylic acid diisopropyl ester-toluene solution (1.13 mL, 2.16 mmol) dissolved in THF (6 mL) was added dropwise thereto at 20° C. Subsequently, 4-nitrobenzoic acid (300 mg, 1.80 mmol) dissolved in THF (6 mL) was added dropwise thereto at 20° C., and the reaction was allowed to proceed for one hour. Water (0.5 ml) was added, and concentration was carried out. Then, water (10 ml) was added to the solution, and extraction was carried out using diethyl ether (10 mL,×2). Then, the organic layer was washed with water (10 ml) and saturated salt water (10 ml), and dehumidified with anhydrous magnesium sulfate. Subsequently, a crude product obtained by concentration was purified by column chromatography (silica gel, 40% ethyl acetate-hexane solution) to give (4S,2R)-4-benzoyloxypentane-2-ol containing 1,2-hydrazinedicarboxylic acid diisopropyl ester as 593 mg of a pale yellow solid substance. Measurement of 1H-NMR showed that 379 mg of (4S,2R)-4-(4-nitrobenzoyloxy)pentane-2-ol (yield: 83%/4-nitrobenzoic acid), and 213 mg of 1,2-hydrazinedicarboxylic acid diisopropyl ester were contained.

reactant | triphenylphosphine | 2.16 mmol, 566 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2R,4R)-2,4-pentanediol | 2.16 mmol, 225 mg | C[C@H](C[C@@H](C)O)O | C5H12O2
reactant | azodicarboxylic acid diisopropyl ester toluene | 2.16 mmol, 1.13 mL | C(C)(C)OC(=O)N=NC(=O)OC(C)C.C1(=CC=CC=C1)C
reactant | 4-nitrobenzoic acid | 1.80 mmol, 300 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | Water | 0.5 ml | O | H2O
product | (4S,2R)-4-benzoyloxypentane-2-ol | C(C1=CC=CC=C1)(=O)O[C@H](C[C@@H](C)O)C | C12H16O3
